US07700583B2
To a mixture of (4-methylamino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone (0.6 g, 2.1 mmol) and TEA (0.6 ml, 4.19 mmol) in dry THF (40 ml) was added dropwise chloroacetyl chloride (0.25 ml, 3.14 mmol). The mixture was stirred for 75 min. and evaporated in vacuo followed by addition of water 75 (ml). The aqueous phase was extracted with EtOAc (2×25 ml) and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified on column chromatography (silicagel) using EtOAc-Heptane 1:1 as eluent. Pure fractions were collected; the solvent evaporated in vacuo affording 400 mg (53%) of 2-chloro-N-methyl-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide as a solid.

reactant | (4-methylamino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone | 2.1 mmol, 0.6 g | CNC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C18H26N2O
reactant | chloroacetyl chloride | 3.14 mmol, 0.25 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-chloro-N-methyl-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide | 400 mg, 53% | ClCC(=O)N(C1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C)C | C20H27ClN2O2
